US04132799
A mixture of 4'-amino-2'-chlorovaleranilide (2.27 g., 0.01 mole) anti-tricyclo[4.2.2.02,5 ]dec-3,9-diene-endo7,endo-8-dicarboxylic anhydride (2.02 g., 0.01 mole) and pyridine (20 ml.) is heated under reflux for twenty-four hours. The solvent is removed in vacuo and the residue (4.35 g., m.p. 120°-136° C.) is recrystallized from butyl chloride to give N-(3-chloro-4-valeramidophenyl)-antitricyclo[4.2.2.02,5 ]dec-3,9-diene-endo-7,endo-8-dicarboximide, m.p. 157.5°-159° C.

reactant | 4'-amino-2'-chlorovaleranilide | 0.01 mole, 2.27 g | NC1=CC(=C(NC(CCCC)=O)C=C1)Cl | C11H15ClN2O
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | dec-3,9-diene | CCC=CCCCCC=C | C10H18
